US04640913
Dimethyl[(2-methyl-1,3-dithiolan-2-yl)methyl]propanedioate
A mixture of about 160 g of methyl 2-methyl-1,3-dithiolane-2-propanoate, about 174.63 g of dimethyl carbonate, about 74.41 g of sodium hydride and about 1000 ml of tetrahydrofuran was refluxed for about 19 hours under argon. The mixture was cooled to room temperature, added to a mixture of ice and dilute hydrochloric acid (about 1N) with stirring and saturated with sodium chloride. The organic layer was washed with saturated sodium bicarbonate then saturated sodium chloride, dried and the solvent removed. The residue was dissolved in ether, treated with charcoal, filtered through silica gel and the solvent removed. The residue was distilled via a Kugelrohr collecting the major fraction at about 180°-190° C., at about 0.5 mm giving about 96.26 g of the desired title product as a yellow oil.

reactant | methyl 2-methyl-1,3-dithiolane-2-propanoate | about 160 g | CC1(SCCS1)CCC(=O)OC | C8H14O2S2
reactant | dimethyl carbonate | about 174.63 g | C(OC)(OC)=O | C3H6O3
reactant | sodium hydride | about 74.41 g | [H-].[Na+]
reactant | hydrochloric acid | about 1N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | about 1000 ml | O1CCCC1 | C4H8O
product | Dimethyl[(2-methyl-1,3-dithiolan-2-yl)methyl]propanedioate | about 96.26 g | COC(C(C(=O)OC)CC1(SCCS1)C)=O | C10H16O4S2
